US06797718B2
Under a nitrogen purge, 10% palladium on carbon (9.2 g) was added to a solution of tert-butyl 2-(2-azidoethoxy)ethylcarbamate (92.0 g, 399 mmol) in toluene (900 mL) in a pressure vessel. The vessel was placed under hydrogen pressure (30 psi, 2.0×105 Pa), and for the first 20 minutes, the hydrogen was replaced every five minutes and brought to a pressure of (20 psi, 1.4×105 Pa). The reaction was maintained under hydrogen pressure (20 psi, 1.4×105 Pa) overnight. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with ethanol. The filtrate was concentrated under reduced pressure to yield 77.4 g of tert-butyl 2-(2-aminoethoxy)ethylcarbamate as a light green oil.

reactant | tert-butyl 2-(2-azidoethoxy)ethylcarbamate | 399 mmol, 92.0 g | N(=[N+]=[N-])CCOCCNC(OC(C)(C)C)=O | C9H18N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 9.2 g | [Pd] | Pd
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(2-aminoethoxy)ethylcarbamate | 77.4 g | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
